US06881844B2
A solution of triphenylphosphine (251 mg, 0.82 mmol) in methylene chloride (4 mL) cooled to 0° C. was treated with N-bromosuccinimide (146 mg, 0.82 mmol). This solution was stirred at 0° C. for 15 min. At this time, the reaction was treated with 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid (150 mg, 0.63 mmol). This solution was stirred at 0° C. for 15 min and then was allowed to warm to 25° C. where it was stirred for 30 min. The reaction was then treated with 5-chloro-thiazol-2-ylamine (248 mg, 1.45 mmol) and was stirred at 25° C. for 30 min. The reaction was then treated with N,N-diisopropylethylamine (0.22 mL, 1.26 mmol) and was stirred at 25° C. for 2 d. At this time, the reaction was diluted with water (30 mL) and ethyl acetate (30 mL). This mixture was treated with a 1N aqueous hydrochloric acid solution (10 mL). The organic layer was separated and was washed with a saturated aqueous sodium bicarbonate solution (1×25 mL) and a saturated aqueous sodium chloride solution (1×25 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 1/1 hexanes/ethyl acetate) afforded 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid (5-chloro-thiazol-2-yl)-amide (30 mg, 13%) as a pink solid: mp 252-253° C.; (ES)+-HRMS m/e calcd for C15H13Cl2N3OS (M+H)+ 354.0229, found 354.0233.

reactant | triphenylphosphine | 0.82 mmol, 251 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.82 mmol, 146 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid | 0.63 mmol, 150 mg | ClC1=CC=C2C(=CN(C2=C1)C(C)C)C(=O)O | C12H12ClNO2
reactant | 5-chloro-thiazol-2-ylamine | 1.45 mmol, 248 mg | ClC1=CN=C(S1)N | C3H3ClN2S
reactant | N,N-diisopropylethylamine | 1.26 mmol, 0.22 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid (5-chloro-thiazol-2-yl)-amide | 30 mg, 13% | ClC1=CN=C(S1)NC(=O)C1=CN(C2=CC(=CC=C12)Cl)C(C)C | C15H13Cl2N3OS
